US08349865B2
Step 4: 1,1,1-Trifluoro-N-{3-[(9-fluoro-1-oxo-1,2-dihydrobenzo[c]-2,6-naphthyridin-5-yl)amino]-4-methylbenzyl}methanesulfonamide
To a solution of 5-{[5-(aminomethyl)-2-methylphenyl]amino}-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one (35 mg, 0.10 mmol) in THF (1.0 mL) at 0° C. was added triethylamine (0.03 mL, 0.20 mmol) and trifluoromethanesufonyl chloride (0.01 mL, 0.11 mmol). The reaction was stirred for one hour and then quenched by the addition of citric acid. The mixture was extracted with EtOAc/water and the extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by silica gel column chromatographpy (0-10% MeOH/CH2Cl2) afforded the title compound. 1H NMR (600 MHz, CD6SO) δ 12.21 (d, 1H), 9.92 (s, 1H), 9.45 (dd, 1H), 8.85 (s, 1H), 7.68 (m, 1H), 7.45 (m, 1H), 7.34-7.38 (m, 2H), 7.26 (d, 1H), 7.22 (d, 1H), 7.09 (d, 1H), 4.32 (s, 2H), 2.12 (s, 3H). LRMS (ESI) calc'd for C21H16F4N4O3 [M+H]+, 481.1; found 481.0.

reactant | 5-{[5-(aminomethyl)-2-methylphenyl]amino}-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one | 0.10 mmol, 35 mg | NCC=1C=CC(=C(C1)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)F)C | C20H17FN4O
reactant | triethylamine | 0.20 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesufonyl chloride | 0.11 mmol, 0.01 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 1,1,1-Trifluoro-N-{3-[(9-fluoro-1-oxo-1,2-dihydrobenzo[c]-2,6-naphthyridin-5-yl)amino]-4-methylbenzyl}methanesulfonamide | FC(S(=O)(=O)NCC1=CC(=C(C=C1)C)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)F)(F)F | C21H16F4N4O3S
